US05409943
(a) N-[3-(2-Chloro-6 fluorobenzyloxy)pyrid-2-yl]-N'-(4-nitrophenyl)thiourea
A mixture of 2-amino-3-(2-chloro-6-fluorobenzyloxy)pyridine (7.01g, 0.028 mol), 4nitrophenyl isothiocyanate (5.31g, 0.03 mol) and toluene (50 ml) was heated under reflux for 2 hours, then cooled and treated with ether to induce crystallisation of the product. Yield 11.07 g (86%), m.p. 214° 215 ° C.

reactant | 2-amino-3-(2-chloro-6-fluorobenzyloxy)pyridine | 0.028 mol, 7.01g | NC1=NC=CC=C1OCC1=C(C=CC=C1F)Cl | C12H10ClFN2O
reactant | 4nitrophenyl isothiocyanate | 0.03 mol, 5.31g | [N+](=O)([O-])C1=CC=C(C=C1)N=C=S | C7H4N2O2S
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | N-[3-(2-Chloro-6 fluorobenzyloxy)pyrid-2-yl]-N'-(4-nitrophenyl)thiourea | ClC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)[N+](=O)[O-])C(=CC=C1)F | C19H14ClFN4O3S
